US04549899
5.6 g (0.03 mol) of 5-chloro-3-trifluoromethyl-1,2,4-thiadiazole are added to a mixture which comprises 4 g (0.03 mol) of hydroxyacetic acid diethylamide, 1.9 g (0.03 mol) of potassium hydroxide powder and 80 ml of isopropanol and has been cooled to -10° C. The reaction mixture is stirred for 10 hours at -10° C. and poured into water, and the product is filtered off under suction. 4 g (47% of theory) of (3-trifluoromethyl-1,2,4-thiadiazol-5-yl)-oxyacetic acid diethylamide are obtained in the form of white crystals of melting point 60° C.

reactant | 5-chloro-3-trifluoromethyl-1,2,4-thiadiazole | 0.03 mol, 5.6 g | ClC1=NC(=NS1)C(F)(F)F | C3ClF3N2S
reactant | hydroxyacetic acid diethylamide | 0.03 mol, 4 g | C(C)N(C(CO)=O)CC | C6H13NO2
reactant | potassium hydroxide | 0.03 mol, 1.9 g | [OH-].[K+]
reactant | isopropanol | 80 ml | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | (3-trifluoromethyl-1,2,4-thiadiazol-5-yl)-oxyacetic acid diethylamide | 4 g, 47% | C(C)N(C(COC1=NC(=NS1)C(F)(F)F)=O)CC | C9H12F3N3O2S
